US08017637B2
55.1) tert-butyl[4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)butyl]methylcarbamate
2 g (9.9 mmol) of tert-butyl(4-aminobutyl)methylcarbamate and 1.46 g (9.9 mmol; 1 equivalent) of 2-benzofuran-1,3-dione are solubilized in 50 ml of toluene and the reaction mixture is maintained under reflux for 24 hours in a Dean-Stark. The solvent is evaporated off under reduced pressure and the expected product is purified on a silica column (eluent: dichloromethane/methanol: 90/10).

reactant | tert-butyl(4-aminobutyl)methylcarbamate | 9.9 mmol, 2 g | C(C)(C)(C)OC(N(C)CCCCN)=O | C10H22N2O2
reactant | 2-benzofuran-1,3-dione | 9.9 mmol, 1.46 g, 1 equivalent | C1(OC(C2=C1C=CC=C2)=O)=O | C8H4O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl[4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)butyl]methylcarbamate | C(C)(C)(C)OC(N(C)CCCCN1C(C2=CC=CC=C2C1=O)=O)=O | C18H24N2O4
